US07514451B2
Using 7-chloro-6-fluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid (200 mg) and (3R,4S)-3-cyclopropylaminomethyl-4-fluoropyrrolidine (116 mg), the same procedure was followed as in Example 23 to give 7-[(3S,4S)-3-cyclopropylaminomethyl-4-fluoro-1-pyrrolidinyl]-6-fluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid as pale yellow crystals (101 mg).

reactant | 7-chloro-6-fluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 200 mg | ClC1=C(C=C2C(C(=CN(C2=N1)[C@H]1[C@H](C1)F)C(=O)O)=O)F | C12H7ClF2N2O3
reactant | (3R,4S)-3-cyclopropylaminomethyl-4-fluoropyrrolidine | 116 mg | C1(CC1)NC[C@H]1CNC[C@H]1F | C8H15FN2
product | 7-[(3S,4S)-3-cyclopropylaminomethyl-4-fluoro-1-pyrrolidinyl]-6-fluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 101 mg | C1(CC1)NC[C@H]1CN(C[C@H]1F)C1=C(C=C2C(C(=CN(C2=N1)[C@H]1[C@H](C1)F)C(=O)O)=O)F | C20H21F3N4O3
